US07691882B2
4-[1,3]Dioxolan-2-yl-3-fluoro-benzaldehyde
To a tetrahydrofuran (600 mL) solution of 2-(4-bromo-2-fluoro-phenyl)-[1,3]dioxolane (12.5 g, 50.7 mmol) described in Manufacturing Example 204-1-1 was added dropwise n-butyl lithium (28.5 mL, 2.67 M hexane solution, 76.1 mmol) over 15 minute. The system was stirred for 5 minutes at −78° C., after which a THF solution of N-formylmorpholine (5.61 mL, 55.8 mmol) was added to this reaction solution, which was stirred for another 2.5 hours at room temperature. Water and ethyl acetate were added to this mixture, which was partitioned. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure to obtain the title compound (9.99 g). The title compound was used in the following reaction without any further purification.

reactant | tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
reactant | 2-(4-bromo-2-fluoro-phenyl)-[1,3]dioxolane | 50.7 mmol, 12.5 g | BrC1=CC(=C(C=C1)C1OCCO1)F | C9H8BrFO2
reactant | n-butyl lithium | 76.1 mmol, 2.67 M, 28.5 mL | C(CCC)[Li]
reactant | THF | C1CCOC1 | C4H8O
reactant | N-formylmorpholine | 55.8 mmol, 5.61 mL | C(=O)N1CCOCC1 | C5H9NO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 4-[1,3]Dioxolan-2-yl-3-fluoro-benzaldehyde | 9.99 g | O1C(OCC1)C1=C(C=C(C=O)C=C1)F | C10H9FO3
